US05663191
Stage A: trans-1-Benzyl-3-hydroxymethyl-4-(2-methoxyphenyl)pyrrolidine
To 560 mmol of lithium aluminum hydride in 800 ml of tetrahydrofuran (THF), under a nitrogen atmosphere and at 5° C., are added 225 mmol of methyl [trans-1-benzyl-4-(2-methoxyphenyl)pyrrolidin-3-yl]carboxylate (described in Preparation A) dissolved in 500 ml of THF. After stirring for 1 hour at 5° C., 139 ml of isopropyl alcohol are added slowly to the above mixture, followed by 85.2 ml of saturated sodium chloride solution. The mixture is stirred slowly at room temperature. After filtration and evaporation of the solvents, the expected product is obtained.

reactant | lithium aluminum hydride | 560 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl [trans-1-benzyl-4-(2-methoxyphenyl)pyrrolidin-3-yl]carboxylate | 225 mmol | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)OC)C(=O)OC | C20H23NO3
reactant | isopropyl alcohol | 139 ml | C(C)(C)O | C3H8O
reactant | sodium chloride | 85.2 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | THF | 500 ml | O1CCCC1 | C4H8O
product | trans-1-Benzyl-3-hydroxymethyl-4-(2-methoxyphenyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)OC)CO | C19H23NO2
